US04161491
The procedure was the same as that described in Example 1 except that instead of isobutyryl cyanide there were employed 131.5 grams (1.0 mole) of 4-chlorobutyryl cyanide. After recrystallization from water there were isolated 130 grams (87% of theory) of 5-chloro-2-oxovaleramide having a melting point of 87° C.

reactant | isobutyryl cyanide | C(C(C)C)(=O)C#N | C5H7NO
reactant | 4-chlorobutyryl cyanide | 1.0 mole, 131.5 grams | ClCCCC(=O)C#N | C5H6ClNO
product | 5-chloro-2-oxovaleramide | 130 grams, 87% | ClCCCC(C(=O)N)=O | C5H8ClNO2
